* Subcircuit D_FF
.subckt D_FF net-_sc1-pad2_ net-_sc2-pad2_ net-_sc1-pad3_ net-_sc3-pad3_ net-_sc4-pad1_ 
* h:\esim\esim\library\subcircuitlibrary\d_ff\d_ff.cir

* s c m o d e
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc2 net-_sc1-pad1_ net-_sc2-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc3 net-_sc2-pad3_ net-_sc1-pad2_ net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc4 net-_sc4-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc5 net-_sc4-pad1_ net-_sc2-pad3_ net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
* Control Statements

.ends D_FF