* h:\esim\esim\library\subcircuitlibrary\rnk_blk\rnk_blk.cir

.include MUX_21.sub
.include DFF_CE.sub
.include tri_state.sub

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ port
* s c m o d e
x1 net-_u1-pad3_ net-_u1-pad2_ net-_u1-pad1_ net-_u1-pad4_ net-_u1-pad5_ net-_x1-pad6_ DFF_CE
x2 net-_u1-pad6_ net-_x1-pad6_ net-_u1-pad1_ net-_u1-pad4_ net-_u1-pad5_ net-_x2-pad6_ MUX_21
x3 net-_u1-pad3_ net-_u1-pad7_ net-_x2-pad6_ net-_u1-pad4_ net-_u1-pad5_ net-_x3-pad6_ DFF_CE
x4 net-_u1-pad8_ net-_x3-pad6_ net-_x1-pad6_ net-_u1-pad4_ net-_u1-pad5_ net-_x4-pad6_ MUX_21
x5 net-_x4-pad6_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad9_ net-_u1-pad10_ tri_state
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
