* C:\Users\AJAY\OneDrive\Desktop\FOSSEE2.3\eSim\library\SubcircuitLibrary\SN74LS194\SN74LS194.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 01/17/26 19:34:23

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U6  Net-_U15-Pad1_ Net-_U1-Pad2_ Net-_U6-Pad3_ d_and		
U11  Net-_U1-Pad3_ Net-_U11-Pad2_ Net-_U11-Pad3_ d_and		
U13  Net-_U1-Pad14_ Net-_U13-Pad2_ Net-_U12-Pad1_ d_and		
U14  Net-_U14-Pad1_ Net-_U10-Pad3_ ? Net-_U1-Pad1_ Net-_U1-Pad15_ ? d_dff		
U9  Net-_U8-Pad2_ Net-_U14-Pad1_ d_inverter		
U15  Net-_U15-Pad1_ Net-_U1-Pad15_ Net-_U15-Pad3_ d_and		
U19  Net-_U1-Pad4_ Net-_U11-Pad2_ Net-_U19-Pad3_ d_and		
U21  Net-_U1-Pad13_ Net-_U13-Pad2_ Net-_U20-Pad1_ d_and		
U22  Net-_U18-Pad2_ Net-_U10-Pad3_ ? Net-_U1-Pad1_ Net-_U1-Pad14_ ? d_dff		
U18  Net-_U17-Pad2_ Net-_U18-Pad2_ d_inverter		
U23  Net-_U15-Pad1_ Net-_U1-Pad14_ Net-_U23-Pad3_ d_and		
U27  Net-_U1-Pad5_ Net-_U11-Pad2_ Net-_U27-Pad3_ d_and		
U29  Net-_U1-Pad12_ Net-_U13-Pad2_ Net-_U28-Pad1_ d_and		
U30  Net-_U26-Pad2_ Net-_U10-Pad3_ ? Net-_U1-Pad1_ Net-_U1-Pad13_ ? d_dff		
U26  Net-_U25-Pad2_ Net-_U26-Pad2_ d_inverter		
U31  Net-_U15-Pad1_ Net-_U1-Pad13_ Net-_U31-Pad3_ d_and		
U35  Net-_U1-Pad6_ Net-_U11-Pad2_ Net-_U35-Pad3_ d_and		
U37  Net-_U1-Pad7_ Net-_U13-Pad2_ Net-_U36-Pad1_ d_and		
U38  Net-_U34-Pad2_ Net-_U10-Pad3_ ? Net-_U1-Pad1_ Net-_U1-Pad12_ ? d_dff		
U34  Net-_U33-Pad2_ Net-_U34-Pad2_ d_inverter		
U2  Net-_U1-Pad9_ Net-_U13-Pad2_ d_inverter		
U3  Net-_U1-Pad10_ Net-_U15-Pad1_ d_inverter		
U4  Net-_U13-Pad2_ Net-_U15-Pad1_ Net-_U11-Pad2_ d_nor		
U5  Net-_U15-Pad1_ Net-_U13-Pad2_ Net-_U10-Pad1_ d_and		
U10  Net-_U10-Pad1_ Net-_U1-Pad11_ Net-_U10-Pad3_ d_nor		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ ? Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ ? PORT		
U12  Net-_U12-Pad1_ Net-_U11-Pad3_ Net-_U12-Pad3_ d_or		
U7  Net-_U12-Pad3_ Net-_U6-Pad3_ Net-_U7-Pad3_ d_or		
U8  Net-_U7-Pad3_ Net-_U8-Pad2_ d_inverter		
U20  Net-_U20-Pad1_ Net-_U19-Pad3_ Net-_U16-Pad1_ d_or		
U16  Net-_U16-Pad1_ Net-_U15-Pad3_ Net-_U16-Pad3_ d_or		
U17  Net-_U16-Pad3_ Net-_U17-Pad2_ d_inverter		
U28  Net-_U28-Pad1_ Net-_U27-Pad3_ Net-_U24-Pad1_ d_or		
U24  Net-_U24-Pad1_ Net-_U23-Pad3_ Net-_U24-Pad3_ d_or		
U25  Net-_U24-Pad3_ Net-_U25-Pad2_ d_inverter		
U36  Net-_U36-Pad1_ Net-_U35-Pad3_ Net-_U32-Pad1_ d_or		
U32  Net-_U32-Pad1_ Net-_U31-Pad3_ Net-_U32-Pad3_ d_or		
U33  Net-_U32-Pad3_ Net-_U33-Pad2_ d_inverter		

.end
