* Subcircuit SN74LS156
.subckt SN74LS156 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ 
.title kicad schematic
* u25 net-_u17-pad2_ net-_u25-pad2_ net-_u1-pad7_ d_nand
* u28 net-_u20-pad2_ net-_u25-pad2_ net-_u1-pad4_ d_nand
* u26 net-_u18-pad2_ net-_u25-pad2_ net-_u1-pad6_ d_nand
* u29 net-_u21-pad2_ net-_u29-pad2_ net-_u1-pad9_ d_nand
* u27 net-_u19-pad2_ net-_u25-pad2_ net-_u1-pad5_ d_nand
* u9 net-_u10-pad1_ net-_u11-pad2_ net-_u17-pad1_ d_nand
* u17 net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u30 net-_u22-pad2_ net-_u29-pad2_ net-_u1-pad10_ d_nand
* u31 net-_u23-pad2_ net-_u29-pad2_ net-_u1-pad11_ d_nand
* u32 net-_u24-pad2_ net-_u29-pad2_ net-_u1-pad12_ d_nand
* u16 net-_u1-pad3_ net-_u1-pad13_ net-_u16-pad3_ d_nand
* u23 net-_u15-pad3_ net-_u23-pad2_ d_inverter
* u24 net-_u16-pad3_ net-_u24-pad2_ d_inverter
* u7 net-_u5-pad2_ net-_u1-pad1_ net-_u25-pad2_ d_and
* u8 net-_u6-pad2_ net-_u4-pad2_ net-_u29-pad2_ d_and
* u5 net-_u1-pad2_ net-_u5-pad2_ d_inverter
* u4 net-_u1-pad14_ net-_u4-pad2_ d_inverter
* u6 net-_u1-pad15_ net-_u6-pad2_ d_inverter
* u3 net-_u1-pad13_ net-_u11-pad2_ d_inverter
* u2 net-_u1-pad3_ net-_u10-pad1_ d_inverter
* u10 net-_u10-pad1_ net-_u1-pad13_ net-_u10-pad3_ d_nand
* u18 net-_u10-pad3_ net-_u18-pad2_ d_inverter
* u11 net-_u1-pad3_ net-_u11-pad2_ net-_u11-pad3_ d_nand
* u21 net-_u13-pad3_ net-_u21-pad2_ d_inverter
* u14 net-_u10-pad1_ net-_u1-pad13_ net-_u14-pad3_ d_nand
* u12 net-_u1-pad3_ net-_u1-pad13_ net-_u12-pad3_ d_nand
* u13 net-_u10-pad1_ net-_u11-pad2_ net-_u13-pad3_ d_nand
* u19 net-_u11-pad3_ net-_u19-pad2_ d_inverter
* u20 net-_u12-pad3_ net-_u20-pad2_ d_inverter
* u15 net-_u1-pad3_ net-_u11-pad2_ net-_u15-pad3_ d_nand
* u22 net-_u14-pad3_ net-_u22-pad2_ d_inverter
a1 [net-_u17-pad2_ net-_u25-pad2_ ] net-_u1-pad7_ u25
a2 [net-_u20-pad2_ net-_u25-pad2_ ] net-_u1-pad4_ u28
a3 [net-_u18-pad2_ net-_u25-pad2_ ] net-_u1-pad6_ u26
a4 [net-_u21-pad2_ net-_u29-pad2_ ] net-_u1-pad9_ u29
a5 [net-_u19-pad2_ net-_u25-pad2_ ] net-_u1-pad5_ u27
a6 [net-_u10-pad1_ net-_u11-pad2_ ] net-_u17-pad1_ u9
a7 net-_u17-pad1_ net-_u17-pad2_ u17
a8 [net-_u22-pad2_ net-_u29-pad2_ ] net-_u1-pad10_ u30
a9 [net-_u23-pad2_ net-_u29-pad2_ ] net-_u1-pad11_ u31
a10 [net-_u24-pad2_ net-_u29-pad2_ ] net-_u1-pad12_ u32
a11 [net-_u1-pad3_ net-_u1-pad13_ ] net-_u16-pad3_ u16
a12 net-_u15-pad3_ net-_u23-pad2_ u23
a13 net-_u16-pad3_ net-_u24-pad2_ u24
a14 [net-_u5-pad2_ net-_u1-pad1_ ] net-_u25-pad2_ u7
a15 [net-_u6-pad2_ net-_u4-pad2_ ] net-_u29-pad2_ u8
a16 net-_u1-pad2_ net-_u5-pad2_ u5
a17 net-_u1-pad14_ net-_u4-pad2_ u4
a18 net-_u1-pad15_ net-_u6-pad2_ u6
a19 net-_u1-pad13_ net-_u11-pad2_ u3
a20 net-_u1-pad3_ net-_u10-pad1_ u2
a21 [net-_u10-pad1_ net-_u1-pad13_ ] net-_u10-pad3_ u10
a22 net-_u10-pad3_ net-_u18-pad2_ u18
a23 [net-_u1-pad3_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a24 net-_u13-pad3_ net-_u21-pad2_ u21
a25 [net-_u10-pad1_ net-_u1-pad13_ ] net-_u14-pad3_ u14
a26 [net-_u1-pad3_ net-_u1-pad13_ ] net-_u12-pad3_ u12
a27 [net-_u10-pad1_ net-_u11-pad2_ ] net-_u13-pad3_ u13
a28 net-_u11-pad3_ net-_u19-pad2_ u19
a29 net-_u12-pad3_ net-_u20-pad2_ u20
a30 [net-_u1-pad3_ net-_u11-pad2_ ] net-_u15-pad3_ u15
a31 net-_u14-pad3_ net-_u22-pad2_ u22
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u25 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u28 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u26 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u29 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u27 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u9 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u30 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u31 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u32 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u16 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u10 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u14 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u13 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u15 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SN74LS156